US07163937B2
A solution of (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)-cyclohexanecarboxylate (2.42 g, 5.43 mmol) in methanol was treated with 600 mg of 10% Pd/C and hydrogenated at 55 psi of H2 in a Parr shaker overnight. The catalyst was filtered and the filtrate concentrated in vacuo to give 1.64 g of (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)-cyclohexanecarboxylate as a white solid. This was used without further purification.

reactant | (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)-cyclohexanecarboxylate | 5.43 mmol, 2.42 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)C(=O)OC)=O | C24H35N3O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)-cyclohexanecarboxylate | 1.64 g | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)C(=O)OC)=O | C16H29N3O3
